US05441960
2-[6-Oxo-2-phenyl-5-(4-pyridylmethoxycarbonylamino)-1,6-dihydropyrimidin-1-yl]-N-[3,3-difluoro-1-isopropyl-2-oxo-3-(N-phenethylcarbamoyl)propyl]acetamide.
2-(5-Amino-6-oxo-2-phenyl-1,6-dihydropyrimidin-1-yl)-N-[3,3-difluoro-1-isopropyl-2-oxo-3-(N-phenethylcarbamoyl)propyl]acetamide (0.140 g) in tetrahydrofuran (2 mL) was cooled in a salt/ice-water bath. After triethylamine (0.045 mL) was added, a solution of triphosgene (0.030 g) in tetrahydrofuran (0.5 mL) was added dropwise. Two 0.5 mL rinses of the syringe were also added to the reaction mixture. The mixture was stirred in a salt/ice-water bath for 40 minutes. Solid 4-pyridylcarbinol (0.058 g) was added and the mixture was allowed to slowly warm to room temperature. Tetrahydrofuran (1.5 mL) was added to the solution and it was allowed to stir overnight. The mixture was diluted with ethyl acetate and washed with saturated bicarbonate. The organic phase was washed with brine, dried and evaporated to give an oil. Chromatography, with dichloromethane:methanol (gradient, 98:2 to 95:5 to 90:10) as the eluent, followed by drying under vacuum, gave the title compound as a white solid (0.06 g); TLC: Rf =0.45, methanol:dichloromethane (10:90); 300 MHz NMR (DMSO/trifluoroacetic acid): 0.77 (d,3), 0.89 (d,3), 2.20-2.40 (m,1), 2.80 (t,2), 3.33-3.45 (m,2), 4.64 (q,2), 4.87 (d,1), 5.57 (s,2), 7.20-7.32 (m,5), 7.47-7.62 (m,5), 8.23 (d,2 ), 8.56 (s,1), 9.00 (d,2), 9.25 (t,1); MS: m/z=661 (M+1). Analysis for C34H34F2N6O6 : Calculated: C, 61.81; H, 5.19; N, 12.72; Found: C, 62.07; H, 5.47; N, 12.67.

reactant | 2-(5-Amino-6-oxo-2-phenyl-1,6-dihydropyrimidin-1-yl)-N-[3,3-difluoro-1-isopropyl-2-oxo-3-(N-phenethylcarbamoyl)propyl]acetamide | 0.140 g | NC1=CN=C(N(C1=O)CC(=O)NC(C(C(C(NCCC1=CC=CC=C1)=O)(F)F)=O)C(C)C)C1=CC=CC=C1 | C27H29F2N5O4
reactant | triethylamine | 0.045 mL | C(C)N(CC)CC | C6H15N
reactant | triphosgene | 0.030 g | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
reactant | 4-pyridylcarbinol | 0.058 g | N1=CC=C(C=C1)CO | C6H7NO
solvent | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 0.5 mL | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | Tetrahydrofuran | 1.5 mL | O1CCCC1 | C4H8O
solvent | methanol | CO | CH4O
solvent | dichloromethane | ClCCl | CH2Cl2
product | 2-[6-Oxo-2-phenyl-5-(4-pyridylmethoxycarbonylamino)-1,6-dihydropyrimidin-1-yl]-N-[3,3-difluoro-1-isopropyl-2-oxo-3-(N-phenethylcarbamoyl)propyl]acetamide | 0.06 g | O=C1C(=CN=C(N1CC(=O)NC(C(C(C(NCCC1=CC=CC=C1)=O)(F)F)=O)C(C)C)C1=CC=CC=C1)NC(=O)OCC1=CC=NC=C1 | C34H34F2N6O6
